US06013662
A solution of 3 g (7.95 mmol) of methyl(3aRS,4SR,7aRS)-2-benzyl-4-methyl-7-oxo-4-phenyloctahydroisoindole-3a-carboxylate and of 1.55 cm3 (31.8 mmol) of hydrazine hydrate in 30 cm3 of methanol was brought to reflux for two hours. After concentrating the methanol under reduced pressure, the residue was taken up in dichloromethane, washed with three times 30 cm3 of distilled water, dried over magnesium sulphate and concentrated under reduced pressure. 2.8 g (89%) of methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono4-methyl-4-phenyloctahydroisoindole-3a-carboxylate were thus obtained in the form of a brown oil, the characteristics of which were as follows:

reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-4-methyl-7-oxo-4-phenyloctahydroisoindole-3a-carboxylate | 7.95 mmol, 3 g | COC(=O)C12CN(CC2C(CCC1(C1=CC=CC=C1)C)=O)CC1=CC=CC=C1 | C24H27NO3
reactant | hydrazine hydrate | 31.8 mmol, 1.55 cm3 | O.NN
solvent | methanol | 30 cm3 | CO | CH4O
product | methyl(3aRS,4SR,7aRS)-2-benzyl-7-hydrazono4-methyl-4-phenyloctahydroisoindole-3a-carboxylate | 2.8 g, 89% | COC(=O)C12CN(CC2C(CCC1(C1=CC=CC=C1)C)=NN)CC1=CC=CC=C1 | C24H29N3O2
